US08535974B2
Synthesis of N-(3-(1,3-dioxolan-2-yl)phenyl)naphthalen-1-amine
A clean and dry 500 ml round bottom flask equipped with a reflux condenser, magnetic stir bar, and thermometer with adapter was prepared and purged with nitrogen Anhydrous toluene (250.0 ml) was transferred to this flask by cannula. 2-(3-bromophenyl)-1,3-dioxolane (6.0 ml, 0.0397 mol) was added by syringe followed by the manual addition of 1-naphthylamine (5.08 g, 0.0355 mol). The reaction solution was purged with a strong nitrogen flow for 30 minutes. Sodium tert-butoxide (5.60 g, 0.0583 mol) and Pd2dba3 (0.65 g, 0.0007 mol) were then added manually, followed by the addition of tri-tert-butylphosphine (1.30 g, 0.0064 mol) in toluene (˜10 ml) via syringe. The vessel was heated to reflux for approximately 5 hours. The reaction was then cooled to room temperature and filtered through a Celite and silica gel pad washing thoroughly with acetone and chloroform. Solvent was removed by rotary evaporation. The crude material was purified by flash column chromatography using ethyl acetate/hexane as an eluent. This provided pure product confirmed by NMR spectroscopy.

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 0.0397 mol, 6.0 ml | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | 1-naphthylamine | 0.0355 mol, 5.08 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | Sodium tert-butoxide | 0.0583 mol, 5.60 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphine | 0.0064 mol, 1.30 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | ˜10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.0007 mol, 0.65 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(3-(1,3-dioxolan-2-yl)phenyl)naphthalen-1-amine | O1C(OCC1)C=1C=C(C=CC1)NC1=CC=CC2=CC=CC=C12 | C19H17NO2
